US04978476
F. 2-(4-Bromomethylphenyl)benzimidazole
1-Trifluoroacetyl-2-(4-bromomethylphenyl)benzimidazole (229.9 g, 0.6 mole) is stirred for 5 hours at room temperature in a 7% solution of potassium carbonate in aqueous methanol The methanolic solution is evaporated to near dryness, and the aqueous residue is extracted with methylene chloride. The combined organics are washed with water, filtered through cotton, and evaporated to yield a solid product which is purified by recrystallization from benzene.

reactant | 1-Trifluoroacetyl-2-(4-bromomethylphenyl)benzimidazole | 0.6 mole, 229.9 g | FC(C(=O)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CBr)(F)F | C16H10BrF3N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 2-(4-Bromomethylphenyl)benzimidazole | BrCC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2 | C14H11BrN2
